* NGSPICE file created from current_mirror.ext - technology: sky130A

.subckt current_mirror IREF OUT VSS
X0 IREF.t1 IREF.t0 VSS.t1 VSS.t0 sky130_fd_pr__nfet_01v8 ad=8 pd=21.6 as=8 ps=21.6 w=10 l=1
X1 OUT.t0 IREF.t2 VSS.t3 VSS.t2 sky130_fd_pr__nfet_01v8 ad=8 pd=21.6 as=8 ps=21.6 w=10 l=1
R0 OUT OUT.t0 220.72
R1 IREF.n0 IREF.t2 449.103
R2 IREF.n1 IREF.t0 440.647
R3 IREF.n0 IREF.t1 207.668
R4 IREF IREF.n1 2.39021
R5 IREF.n1 IREF.n0 0.368147
R6 VSS.t0 VSS.n2 4301.06
R7 VSS.n3 VSS.t0 1734.81
R8 VSS.n2 VSS.n1 1189.61
R9 VSS.n2 VSS.t2 545.205
R10 VSS.n1 VSS.t3 211.234
R11 VSS.n0 VSS.t1 210.609
R12 VSS.n1 VSS.n0 8.19903
R13 VSS VSS.n3 1.39756
R14 VSS.n3 VSS.n0 0.6255
C0 OUT IREF 1.17544f
C1 OUT VSS 0.80284p
C2 IREF VSS 29.18756f
C3 IREF.t2 VSS 0.18801p
C4 IREF.t1 VSS 0.16526p
C5 IREF.n0 VSS 0.45415p
C6 IREF.t0 VSS 0.1821p
C7 IREF.n1 VSS 0.16289p
C8 OUT.t0 VSS 0.37641p
.ends

