* NGSPICE file created from current_mirror.ext - technology: sky130A

.subckt current_mirror OUT VSS
X0 OUT OUT VSS VSS sky130_fd_pr__nfet_01v8 ad=8 pd=21.6 as=8 ps=21.6 w=10 l=1
X1 OUT OUT VSS VSS sky130_fd_pr__nfet_01v8 ad=8 pd=21.6 as=8 ps=21.6 w=10 l=1
.ends

