* NGSPICE file created from rc_coupon.ext - technology: sky130A

.subckt rc_coupon IN DRAIN VSS
X0 DRAIN.t0 IN.t0 VSS.t1 VSS.t0 sky130_fd_pr__nfet_01v8 ad=0.8 pd=3.6 as=0.8 ps=3.6 w=1 l=0.5
R0 DRAIN DRAIN.t0 254.3
R1 IN IN.t0 279.777
R2 VSS VSS.t0 5670.97
R3 VSS VSS.t1 254.925
C0 DRAIN IN 0.00856f
C1 DRAIN VSS 3.05902f
C2 IN VSS 19.45957f
C3 IN.t0 VSS 0.23984f
C4 DRAIN.t0 VSS 5.5989f
.ends

