* Absolute distributed-capacitance conservation probe
R1 IN IN.t0 292.277
C_STUDIO_RC_0 IN.t0 0 9.93365323444911e-16
C_STUDIO_RC_1 IN 0 2.083773467655509e-14
C_STUDIO_RC_4 0 IN.t0 2.547628433489706e-19
C_STUDIO_RC_5 0 IN 5.344137156651029e-18
C_STUDIO_RC_6 0 IN.t0 1.3475097464181806e-19
C_STUDIO_RC_7 0 IN 2.8266590253581816e-18
VDRIVE IN 0 AC 1
.ac lin 2 1000 1001
.save i(vdrive) v(IN.t0)
.end
