* NGSPICE file created from rc_coupon.ext - technology: sky130A

.subckt rc_coupon IN DRAIN VSS
X0 DRAIN.t0 IN.t0 VSS.t1 VSS.t0 sky130_fd_pr__nfet_01v8 ad=0.8 pd=3.6 as=0.8 ps=3.6 w=1 l=0.5
R0 DRAIN DRAIN.t0 254.3
R1 IN IN.t0 279.777
R2 VSS VSS.t0 5670.97
R3 VSS VSS.t1 254.925
C0 IN.t0 DRAIN.t0 0
C1 IN DRAIN.t0 0.00544f
C2 DRAIN IN.t0 0
C3 IN DRAIN 0.00288f
C4 DRAIN VSS 0.03377f
C5 IN VSS 10.827f
C6 IN.t0 VSS 0.3121f
C7 DRAIN.t0 VSS 0.06384f
.ends

