* Independent full terminal capacitance matrix
R0 DRAIN DRAIN.t0 254.3
R1 IN IN.t0 279.777
R2 VSS VSS.t0 5670.97
R3 VSS VSS.t1 254.925
C_STUDIO_RC_0 IN.t0 VSS 3.120967642542085e-16
C_STUDIO_RC_1 IN VSS 1.0827003235745794e-14
C_STUDIO_RC_2 DRAIN.t0 VSS 6.384012639845987e-17
C_STUDIO_RC_3 DRAIN VSS 3.376677360154013e-17
C_STUDIO_RC_4 DRAIN.t0 IN.t0 1.5687071427520067e-19
C_STUDIO_RC_5 DRAIN.t0 IN 5.4420292857247994e-18
C_STUDIO_RC_6 DRAIN IN.t0 8.297317365227492e-20
C_STUDIO_RC_7 DRAIN IN 2.8784368263477254e-18
V0 IN 0 AC 0
V1 DRAIN 0 AC 1
V2 VSS 0 AC 0
.ac lin 2 1000 1001
.save i(v0) i(v1) i(v2) v(DRAIN)
.end
